US07507740B2
Production of 5-ethyl-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine
To a solution of 4-chloro-5-ethyl-5H-pyrrolo[3,2-d]pyrimidine (85 mg) in 1-methyl-2-pyrrolidone (0.94 mL) was added 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline (150 mg). The title compound (67 mg) was obtained as white powder crystals by the reaction in the same manner as in Example 29.

reactant | 4-chloro-5-ethyl-5H-pyrrolo[3,2-d]pyrimidine | 85 mg | ClC=1C2=C(N=CN1)C=CN2CC | C8H8ClN3
reactant | 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline | 150 mg | CC=1C=C(N)C=CC1OC=1C=NC(=CC1)C | C13H14N2O
solvent | 1-methyl-2-pyrrolidone | 0.94 mL | CN1C(CCC1)=O | C5H9NO
product | 5-ethyl-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 67 mg | C(C)N1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)C | C21H21N5O
